* c:\users\mamat\onedrive\documents\final_project_files\fossee_esim_project_files\mixed_signal_design\idt72v201\ic_idt72v201\ic_idt72v201.cir

* u20  d7 d6 d5 d4 d3 d2 d1 d0 net-_u18-pad2_ net-_u18-pad3_ net-_u18-pad4_ net-_u18-pad5_ net-_u18-pad6_ net-_u18-pad7_ net-_u18-pad8_ net-_u18-pad9_ adc_bridge_8
* u19  d8 net-_u18-pad1_ adc_bridge_1
* u21  wclk rclk wen1 wen2 ren1 ren2 oe rs net-_u18-pad10_ net-_u18-pad11_ net-_u18-pad12_ net-_u18-pad13_ net-_u18-pad14_ net-_u18-pad15_ net-_u18-pad16_ net-_u18-pad17_ adc_bridge_8
* u23  net-_u18-pad19_ net-_u18-pad20_ net-_u18-pad21_ net-_u18-pad22_ net-_u18-pad23_ net-_u18-pad24_ net-_u18-pad25_ net-_u18-pad26_ q7 q6 q5 q4 q3 q2 q1 q0 dac_bridge_8
* u22  net-_u18-pad18_ q8 dac_bridge_1
* u24  net-_u18-pad27_ net-_u18-pad28_ net-_u18-pad29_ net-_u18-pad30_ ef ff pae paf dac_bridge_4
v1  d8 gnd pulse(0 5 0.01n 0.01n 0.01n 70n 100n)
v5  d7 gnd pulse(0 5 0.01n 0.01n 0.01n 50n 100n)
v9  d6 gnd pulse(0 5 0.01n 0.01n 0.01n 60n 70n)
v13  d5 gnd pulse(0 5 0.01n 0.01n 0.01n 50n 70n)
v17  d4 gnd pulse(0 5 0.01n 0.01n 0.01n 40n 60n)
v2  d3 gnd pulse(0 5 0.01n 0.01n 0.01n 40n 50n)
v6  d2 gnd pulse(0 5 0.01n 0.01n 0.01n 30n 50n)
v10  d1 gnd pulse(0 5 0.01n 0.01n 0.01n 20n 40n)
v14  d0 gnd pulse(0 5 0.01n 0.01n 0.01n 10n 30n)
v3  wclk gnd pulse(0 5 0.01n 0.01n 0.01n 1n 2n)
v7  rclk gnd pulse(0 5 0.01n 0.01n 0.01n 1n 2n)
v11  wen1 gnd pulse(0 5 0.01n 0.01n 0.01n 570n 1.2u)
v15  wen2 gnd pulse(0 5 0.01n 0.01n 0.01u 2.9u 3u)
v4  ren1 gnd pulse(0 5 0.01n 0.01n 0.01n 1.2u 3u)
v8  ren2 gnd pulse(0 5 0.01n 0.01n 0.01n 1.2u 3u)
v12  oe gnd pulse(0 5 0.01n 0.01n 0.01n 2.9u 3u)
v16  rs gnd pulse(0 5 0.01n 0.01n 0.01n 50n 3u)
* u27  q6 plot_v1
* u28  q5 plot_v1
* u29  q4 plot_v1
* u30  q3 plot_v1
* u31  q2 plot_v1
* u32  q1 plot_v1
* u33  q0 plot_v1
* u34  ef plot_v1
* u35  ff plot_v1
* u36  pae plot_v1
* u37  paf plot_v1
* u26  q7 plot_v1
* u25  q8 plot_v1
* u1  d8 plot_v1
* u9  d6 plot_v1
* u17  d4 plot_v1
* u2  d3 plot_v1
* u8  d2 plot_v1
* u12  d1 plot_v1
* u16  d0 plot_v1
* u3  wclk plot_v1
* u6  rclk plot_v1
* u10  wen1 plot_v1
* u14  wen2 plot_v1
* u4  ren1 plot_v1
* u7  ren2 plot_v1
* u11  oe plot_v1
* u15  rs plot_v1
* u5  d7 plot_v1
* u13  d5 plot_v1
* u18  net-_u18-pad1_ net-_u18-pad2_ net-_u18-pad3_ net-_u18-pad4_ net-_u18-pad5_ net-_u18-pad6_ net-_u18-pad7_ net-_u18-pad8_ net-_u18-pad9_ net-_u18-pad10_ net-_u18-pad11_ net-_u18-pad12_ net-_u18-pad13_ net-_u18-pad14_ net-_u18-pad15_ net-_u18-pad16_ net-_u18-pad17_ net-_u18-pad18_ net-_u18-pad19_ net-_u18-pad20_ net-_u18-pad21_ net-_u18-pad22_ net-_u18-pad23_ net-_u18-pad24_ net-_u18-pad25_ net-_u18-pad26_ net-_u18-pad27_ net-_u18-pad28_ net-_u18-pad29_ net-_u18-pad30_ fifo
a1 [d7 d6 d5 d4 d3 d2 d1 d0 ] [net-_u18-pad2_ net-_u18-pad3_ net-_u18-pad4_ net-_u18-pad5_ net-_u18-pad6_ net-_u18-pad7_ net-_u18-pad8_ net-_u18-pad9_ ] u20
a2 [d8 ] [net-_u18-pad1_ ] u19
a3 [wclk rclk wen1 wen2 ren1 ren2 oe rs ] [net-_u18-pad10_ net-_u18-pad11_ net-_u18-pad12_ net-_u18-pad13_ net-_u18-pad14_ net-_u18-pad15_ net-_u18-pad16_ net-_u18-pad17_ ] u21
a4 [net-_u18-pad19_ net-_u18-pad20_ net-_u18-pad21_ net-_u18-pad22_ net-_u18-pad23_ net-_u18-pad24_ net-_u18-pad25_ net-_u18-pad26_ ] [q7 q6 q5 q4 q3 q2 q1 q0 ] u23
a5 [net-_u18-pad18_ ] [q8 ] u22
a6 [net-_u18-pad27_ net-_u18-pad28_ net-_u18-pad29_ net-_u18-pad30_ ] [ef ff pae paf ] u24
a7 [net-_u18-pad1_ net-_u18-pad2_ net-_u18-pad3_ net-_u18-pad4_ net-_u18-pad5_ net-_u18-pad6_ net-_u18-pad7_ net-_u18-pad8_ net-_u18-pad9_ ] [net-_u18-pad10_ ] [net-_u18-pad11_ ] [net-_u18-pad12_ ] [net-_u18-pad13_ ] [net-_u18-pad14_ ] [net-_u18-pad15_ ] [net-_u18-pad16_ ] [net-_u18-pad17_ ] [net-_u18-pad18_ net-_u18-pad19_ net-_u18-pad20_ net-_u18-pad21_ net-_u18-pad22_ net-_u18-pad23_ net-_u18-pad24_ net-_u18-pad25_ net-_u18-pad26_ ] [net-_u18-pad27_ ] [net-_u18-pad28_ ] [net-_u18-pad29_ ] [net-_u18-pad30_ ] u18
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u21 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u23 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u22 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u24 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             fifo, NgSpice Name: fifo
.model u18 fifo(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-09 1.717e-06 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q6)
plot v(q5)
plot v(q4)
plot v(q3)
plot v(q2)
plot v(q1)
plot v(q0)
plot v(ef)
plot v(ff)
plot v(pae)
plot v(paf)
plot v(q7)
plot v(q8)
plot v(d8)
plot v(d6)
plot v(d4)
plot v(d3)
plot v(d2)
plot v(d1)
plot v(d0)
plot v(wclk)
plot v(rclk)
plot v(wen1)
plot v(wen2)
plot v(ren1)
plot v(ren2)
plot v(oe)
plot v(rs)
plot v(d7)
plot v(d5)
.endc
.end
