* c:\users\mamat\esim-workspace\crc_generator\crc_generator.cir

.include AN1186.sub
v2  clk gnd pulse(5 0 0.01n 0.01n 0.01n 250m 500m)
v3  rst gnd pulse(0 5 0.01n 0.01n 0.01n 300m 10)
v1  data_in gnd pulse(0 5 0.01n 0.01n 0.01n 350m 600m)
v4  net-_x1-pad14_ gnd 5
* u1  clk plot_v1
* u2  rst plot_v1
* u3  data_in plot_v1
* u7  q7 plot_v1
* u9  q6 plot_v1
* u11  q5 plot_v1
* u13  q4 plot_v1
* u8  q0 plot_v1
* u10  q1 plot_v1
* u12  q2 plot_v1
* u14  q3 plot_v1
* u6  net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ net-_u6-pad4_ net-_u6-pad5_ net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ q7 q6 q5 q4 q3 q2 q1 q0 dac_bridge_8
* u4  clk rst data_in net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
x1 net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u6-pad8_ net-_u6-pad7_ net-_u6-pad6_ gnd net-_u6-pad5_ net-_u6-pad4_ net-_u6-pad3_ net-_u6-pad2_ net-_u6-pad1_ ? net-_x1-pad14_ AN1186
a1 [net-_u6-pad1_ net-_u6-pad2_ net-_u6-pad3_ net-_u6-pad4_ net-_u6-pad5_ net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ ] [q7 q6 q5 q4 q3 q2 q1 q0 ] u6
a2 [clk rst data_in ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 3
plot v(q7) v(q6)+6 v(q5)+12 v(q4)+18 v(q3)+24 v(q2)+30 v(q1)+36 v(q0)+42 v(data_in)+48 v(clk)+54 v(rst)+60
.endc
.end
