* c:\users\mamat\esim-workspace\cbtl02043a_ic\cbtl02043a_ic.cir

.include CBTL02043A.sub
x1 net-_x1-pad1_ xsd a0_p a0_n gnd net-_x1-pad1_ a1_p a1_n sel net-_x1-pad1_ gnd c1_n c1_p c0_n c0_p b1_n b1_p b0_n b0_p gnd CBTL02043A
v1  xsd gnd pulse(0 5 0.01n 0.01n 0.01n 5000 10000)
v2  a0_p gnd pulse(0 5 0.01n 0.01n 0.01n 750 1000)
v3  a0_n gnd pulse(0 5 0.01n 0.01n 0.01n 600 1500)
v4  a1_p gnd pulse(5 0 0.01n 0.01n 0.01n 500 1500)
v5  a1_n gnd pulse(5 0 0.01n 0.01n 0.01n 700 2000)
v6  sel gnd pulse(0 5 0.01n 0.01n 0.01n 2500 5000)
v7  net-_x1-pad1_ gnd 5
* u1  xsd plot_v1
* u2  a0_p plot_v1
* u6  a0_n plot_v1
* u3  a1_p plot_v1
* u4  a1_n plot_v1
* u5  sel plot_v1
* u9  b0_p plot_v1
* u11  b0_n plot_v1
* u14  b1_p plot_v1
* u12  b1_n plot_v1
* u7  c1_n plot_v1
* u8  c1_p plot_v1
* u10  c0_n plot_v1
* u13  c0_p plot_v1
.tran 100e-00 10000e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot v(c0_p) v(c0_n)+6 v(c1_p)+12 v(c1_n)+18 v(b0_p)+24 v(b0_n)+30 v(b1_p)+36 v(b1_n)+42 v(a0_p)+48 v(a0_n)+54 v(a1_p)+60 v(a1_n)+66 v(sel)+72 v(xsd)+78
.endc
.end
